US04673684
To 37 ml of a 2M solution of phenylmagnesium bromide in tetrahydrofuran was added, under argon atmosphere, 5.24 g (33.9 mmol) of p-chloroacetophenone, and the mixture was allowed to react at 0° C. for 3 hours. At the completion of this reaction, a saturated aqueous solution of ammonium chloride was added to the reaction mixture, which was then extracted with chloroform. The organic layer was washed with water and then concentrated by evaporation under reduced pressure. The residue was subjected to silica gel column chromatography, eluted with chloroform, to give 6.99 g (30.0 mmol) of 1-phenyl-1-(p-chlorophenyl)ethanol. To a solution of 6.99 g (30.0 mmol) of the alcohol compound in ethanol (80 ml) was added 5.00 ml (93.8 mmol) of conc. sulfuric acid, and the mixture was reacted for 1 hour.

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | p-chloroacetophenone | 33.9 mmol, 5.24 g | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-phenyl-1-(p-chlorophenyl)ethanol | 30.0 mmol, 6.99 g | C1(=CC=CC=C1)C(C)(O)C1=CC=C(C=C1)Cl | C14H13ClO
